US06828330B2
Methyl 3-methyl-1,2-benzisoxazole-6-carboxylate (170 mg, 0.89 mmole) is dissolved in 6 ml MeOH under nitrogen. The solution is treated with 2N aqueous NaOH (1 ml, 2 mmole) and the mixture is stirred 4 h at rt. The volatiles are removed in vacuo and the residue is dissolved in 4 ml water. The pH of the solution is adjusted to 3 with 10% aqueous HCl, the white precipitate is collected, is washed with water, and is dried to give 144 mg (92%) of 3-methyl-1,2-benzisoxazole-6-carboxylic acid as a white solid. MS m/z (ESI): 176.2 (M−H)−.

reactant | Methyl 3-methyl-1,2-benzisoxazole-6-carboxylate | 0.89 mmole, 170 mg | CC1=NOC2=C1C=CC(=C2)C(=O)OC | C10H9NO3
reactant | NaOH | 2 mmole, 2N, 1 ml | [OH-].[Na+]
solvent | MeOH | 6 ml | CO | CH4O
product | 3-methyl-1,2-benzisoxazole-6-carboxylic acid | 144 mg, 92% | CC1=NOC2=C1C=CC(=C2)C(=O)O | C9H7NO3
